US07411087B2
Preparation of Zoledronic Acid Monohydrate
A suspension of 1-imidazolylacetic acid (50 g, 0.396 mol) and phosphorous acid (48.7 g, 0.594 mol) in sulfolane (180 ml) is heated to 75° C. for 30 min. The mixture is cooled to 35-40° C. and then gradually introduced phosphorous trichloride (117 ml, 1.346 mol) while maintaining the temperature between 35-45° C. The mixture is heated to 63-67° C. for 3 hrs, whereby white solid results. It is then cooled to 0-5° C. and quenched by slow addition of water (500 ml) at 0-5° C. over a period of 1 hr. The resulting clear solution is heated at 100° C. for 3 hrs, cooled to ambient temperature and charcoalized. To the charcoalized solution is added acetone (800 ml). The mixture is then stirred for 4 hrs at 20-25° C. and the crystallized product is filtered, washed sequentially with chilled water (200 ml), acetone (100 ml) and dried in air oven at 55-60° C. until water content is between. 6.2-7.2% w/w. Yield 81.3 g, (70.7%), appearance: white crystalline solid.

reactant | 1-imidazolylacetic acid | 0.396 mol, 50 g | C1=CN(C=N1)CC(=O)O | C5H6N2O2
reactant | phosphorous acid | 0.594 mol, 48.7 g | P(O)(O)O | H3O3P
reactant | phosphorous trichloride | 1.346 mol, 117 ml | P(Cl)(Cl)Cl | Cl3P
solvent | sulfolane | 180 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | Zoledronic Acid Monohydrate | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O.O | InChI=1S/C5H10N2O7P2.H2O/c8-5(15(9,10)11,16(12,13)14)3-7-2-1-6-4-7;/h1-2,4,8H,3H2,(H2,9,10,11)(H2,12,13,14);1H2
